US05059597
d) 4-Hydroxymethyl-3-methylaminopyrrolidine
34 g (0.168 mol) of ethyl 4-hydroxymethyl-3-methylaminopyrrolidine-1-carboxylate are heated under reflux with 100 g of Ba(OH)2.8H2O in 400 ml of water overnight. The BaCO3 is filtered off with suction, the filtrate is concentrated and the residue is boiled up ten times with 100 ml of dioxane each time. The dioxane solutions are filtered, the filtrate is concentrated and the residue is distilled.

reactant | ethyl 4-hydroxymethyl-3-methylaminopyrrolidine-1-carboxylate | 0.168 mol, 34 g | OCC1C(CN(C1)C(=O)OCC)NC | C9H18N2O3
solvent | water | 400 ml | O | H2O
product | 4-Hydroxymethyl-3-methylaminopyrrolidine | OCC1C(CNC1)NC | C6H14N2O
